US07645764B2
6-(5-Hydroxymethyl-2-methyl-phenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (129 mg, 0.394 mmol) was dissolved in 7 mL methylene chloride at room temperature, and MnO2 (343 mg, 3.94 mmol) was added. The reaction mixture was stirred for 48 hours at room temperature, then filtered through Celite. The filtrate was concentrated under reduced pressure, and the residue was purified by preparative TLC plate, eluting with 5% MeOH/DCM, to give 73 mg of 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzaldehyde, MS (M+H)=326.

reactant | 6-(5-Hydroxymethyl-2-methyl-phenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.394 mmol, 129 mg | OCC=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)C | C17H17N3O2S
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 3.94 mmol, 343 mg | O=[Mn]=O
product | 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzaldehyde | 73 mg | CC1=C(C=C(C=O)C=C1)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C | C17H15N3O2S
